US06852880B2
(S)-3-(t-butyl dimethylsilyloxy)-5-(4-methoxy-benzyloxy)-1-phenyl pentane (15 g, 36.2 mmol) was dissolved in a solvent mixture of dichloromethane-water (20:1) (252 ml). DDQ (8.2 g, 36.2 mmol) was added thereto and the mixture was stirred for 30 minutes at room temperature. After completion of the reaction, saturated aqueous NaHCO3 solution (100 ml) was added to the reaction solution to stop the reaction. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The organic layers were combined, washed with saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to give (S)-3-(t-butyldimethylsilyloxy)-5-phenyl-pentan-1-ol (10.6 g, Yield 99%) of a yellow oil.

reactant | (S)-3-(t-butyl dimethylsilyloxy)-5-(4-methoxy-benzyloxy)-1-phenyl pentane | 36.2 mmol, 15 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CCC1=CC=CC=C1)CCOCC1=CC=C(C=C1)OC | C25H38O3Si
reactant | DDQ | 36.2 mmol, 8.2 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane water | 252 ml | ClCCl.O
product | (S)-3-(t-butyldimethylsilyloxy)-5-phenyl-pentan-1-ol | 10.6 g, Yield 99% | [Si](C)(C)(C(C)(C)C)O[C@H](CCO)CCC1=CC=CC=C1 | C17H30O2Si
